US05885997
Ethyl 3-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl]-2-hydroxypropionate Method A
A solution of 3-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl]-2-hydroxypropionic acid (346 mg, 1.0 mmol) (obtained from preparation 28) in ethanol (3 ml) containing concentrated hydrochloric acid (0.1 ml) was refluxed for 10 h. The solution was cooled to room temperature, diluted with water and extracted with EtOAc (2×10 ml). The combined organic extracts were washed with brine, dried over anhydrous Na2SO4 and concentrated to yield the title compound (97 mg, 26%).

reactant | 3-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl]-2-hydroxypropionic acid | 1.0 mmol, 346 mg | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=C1)CC(C(=O)O)O | C18H22N2O5
reactant | hydrochloric acid | 0.1 ml | Cl | ClH
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | Ethyl 3-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl]-2-hydroxypropionate | 97 mg, 26% | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=C1)CC(C(=O)OCC)O | C20H26N2O5
